US05356897
A mixture of 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole (254 mg) and 4-methyl-3-penten-2-one (5 ml) was refluxed for 5 hours. The reaction mixture was cooled and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from a mixture of ethyl acetate and hexane to give 6,7-dihydro-2-(4-fluorophenyl)-3-(pyridin-4-yl)-5,7,7-trimethylpyrazolo[1,5-a]pyrimidine (83 mg).

reactant | 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | 254 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H11FN4
reactant | 4-methyl-3-penten-2-one | 5 ml | CC(=CC(C)=O)C | C6H10O
product | 6,7-dihydro-2-(4-fluorophenyl)-3-(pyridin-4-yl)-5,7,7-trimethylpyrazolo[1,5-a]pyrimidine | 83 mg | FC1=CC=C(C=C1)C1=NN2C(N=C(CC2(C)C)C)=C1C1=CC=NC=C1 | C20H19FN4
